US04315938
1,6-Dimethyl-2-morpholinomethyl-4-phenyl-4,5,6,7-tetrahydropyrrolo[2,3-c]pyridine
A mixture of 1.7 gm of 1,6-dimethyl-4-phenyl-4,5,6,7-tetrahydro-pyrrolo[2,3-c]pyridine maleate, 5 ml of glacial acetic acid, 2 ml of a 30% formalin solution and 1.5 ml of morpholine was stirred for 15 minutes at room temperature. Afterwards, the resulting solution was made alkaline with concentrated ammonia and extracted twice with ether. The organic phase was washed twice with water and, after drying, evaporated in vacuo. The residue crystallized from diisopropylether. 700 mg=43.3% of theory of the title compound were obtained;

reactant | 1,6-dimethyl-4-phenyl-4,5,6,7-tetrahydro-pyrrolo[2,3-c]pyridine maleate | 1.7 gm | C(\C=C/C(=O)O)(=O)O.CN1C=CC2=C1CN(CC2C2=CC=CC=C2)C
reactant | formalin | C=O | CH2O
reactant | morpholine | 1.5 ml | N1CCOCC1 | C4H9NO
reactant | ammonia | N | H3N
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1,6-Dimethyl-2-morpholinomethyl-4-phenyl-4,5,6,7-tetrahydropyrrolo[2,3-c]pyridine | CN1C(=CC2=C1CN(CC2C2=CC=CC=C2)C)CN2CCOCC2 | C20H27N3O
